US08754075B2
5-Chloro-pyridine-2-carboxylic acid {3-[(4R,5R)-2-amino-4-methyl-5-(2,2,2-trifluoro-ethoxy)-5,6-dihydro-4H-[1,3]oxazin-4-yl]-4-fluoro-phenyl}-amide
The condensation of (4R,5R)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5-(2,2,2-trifluoro-ethoxy)-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (A8.4) and 5-chloro-pyridine-2-carboxylic acid following procedure I yielded the title compound as a white solid. MS (ISP): m/z=461.2 [M+H]+.

reactant | (4R,5R)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5-(2,2,2-trifluoro-ethoxy)-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@@H]1OCC(F)(F)F)N)C)F | C13H15F4N3O2
reactant | 5-chloro-pyridine-2-carboxylic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | 5-Chloro-pyridine-2-carboxylic acid {3-[(4R,5R)-2-amino-4-methyl-5-(2,2,2-trifluoro-ethoxy)-5,6-dihydro-4H-[1,3]oxazin-4-yl]-4-fluoro-phenyl}-amide | NC=1OC[C@@H]([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)Cl)OCC(F)(F)F | C19H17ClF4N4O3
